US03968251
To a solution of 26 g of potassium t-butoxide in 400 ml of a 1:1 mixture (v/v) of dimethyl sulfoxide and t-butanol at 10°-15° was added with stirring a solution of 39 g of 4-(1,2-dibromoethyl)biphenyl in 400 ml of the same solvent mixture. After stirring for 20 minutes, the reaction mixture was poured into ice-water. The resulting mixture was extracted with diethyl ether. The diethyl ether then was washed successively with water, five percent aqueous sodium bicarbonate, and water, and dried over anhydrous sodium sulfate. The diethyl ether was distilled under reduced pressure and the solid residue crystallized from aqueous ethanol to give 18.5 g of crude 4-biphenylacetylene, mp 79°-81°. Two recrystallizations from hexane gave pure 4-biphenylacetylene, mp 82°-85°. The following elemental analysis was obtained:

reactant | potassium t-butoxide | 26 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 4-(1,2-dibromoethyl)biphenyl | 39 g | BrC(CBr)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12Br2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 4-biphenylacetylene | 18.5 g | C#CC1=CC=C(C=C1)C2=CC=CC=C2 | C14H10
